US09029545B2
N-(2,6-Dimethyl-3-phenylthieno[2,3-b]pyridin-4-yl)benzenesulfonamide
Following the general method as outlined in Example 28, starting from 2,6-dimethyl-3-phenylthieno[2,3-b]pyridin-4-amine (97 mg, 0.381 mmol) (Description 10) and benzenesulfonyl chloride (135 mg, 0.763 mmol), the title compound (28.7 mg) was isolated. LCMS (A) m/z: 395 [M+1]+, Rt 0.96 min (basic), Rt 1.39 min (acidic).

reactant | 2,6-dimethyl-3-phenylthieno[2,3-b]pyridin-4-amine | 0.381 mmol, 97 mg | CC1=C(C2=C(N=C(C=C2N)C)S1)C1=CC=CC=C1 | C15H14N2S
reactant | benzenesulfonyl chloride | 0.763 mmol, 135 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | N-(2,6-Dimethyl-3-phenylthieno[2,3-b]pyridin-4-yl)benzenesulfonamide | 28.7 mg | CC1=C(C=2C(=NC(=CC2NS(=O)(=O)C2=CC=CC=C2)C)S1)C1=CC=CC=C1 | C21H18N2O2S2
